US04327114
2-Cyclohexyl-1,8-dihydroxy-9-(10H)-anthracenone m.p. 145°-147° C.;
Mixture of 2-dodecyl- and 4-dodecyl-1,8-dihydroxy-9-(10H)anthracenone, Rf -value: 0.59 (Merck prepared TLC-plates 60F-254; mobile phase: toluene without chamber saturation). For comparison: Rf -value of 1,8-dihydroxy-9-(10H)anthracenone=0.53 (same conditions).

reactant | 1,8-dihydroxy-9-(10H)anthracenone | OC1=CC=CC=2CC3=CC=CC(=C3C(C12)=O)O | C14H10O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclohexyl-1,8-dihydroxy-9-(10H)-anthracenone | C1(CCCCC1)C1=C(C=2C(C3=C(C=CC=C3CC2C=C1)O)=O)O | C20H20O3
